US08426438B2
Step 2: Preparation of ethyl 4-oxo-1,4-dihydro-1,5-naphthyridine-3-carboxylate
To a solution of diphenyl ether (30 mL) at 250° C. was added a 1 mL diphenylether solution of diethyl [(pyridin-3-ylamino)methylidene]propanedioate (0.80 g, 3.0 mmol) dropwise over 5 minutes. After 30 minutes, the mixture was cooled to ambient temperature, diluted with hexanes (100 mL) and filtered. The solid was dried in vacuo, providing the titled compound.

reactant | diethyl [(pyridin-3-ylamino)methylidene]propanedioate | 3.0 mmol, 0.80 g | N1=CC(=CC=C1)NC=C(C(=O)OCC)C(=O)OCC | C13H16N2O4
solvent | diphenyl ether | 30 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | diphenylether | 1 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | ethyl 4-oxo-1,4-dihydro-1,5-naphthyridine-3-carboxylate | O=C1C(=CNC2=CC=CN=C12)C(=O)OCC | C11H10N2O3
